US08236826B2
Production of 3-(3-methyl-4-{5-[2-oxo-2-(4-trifluoromethylphenyl)ethyl]pyridin-2-yloxy}phenyl)-1-piperonyltetrahydropyrimidin-2-one hydrobromide
To a solution of 3-[4-(5-bromopyridin-2-yloxy)-3-methylphenyl]-1-piperonyltetrahydropyrimidin-2-one (0.11 g, 0.22 mmol) in toluene (10 mL) were added Pd2(dba)3 (10 mg, 0.01 mmol) and Xantphos (15 mg, 0.03 mmol) under a nitrogen atmosphere. The resulting solution was stirred for 5 minutes, and then 4′-(trifluoromethyl)acetophenone (63 mg, 0.33 mmol) and potassium bis(trimethylsilyl)amide (66 mg, 0.33 mmol) were added to the reaction % solution. The resulting solution was stirred at 70 to 80° C. for 30 minutes, and left to cool. Water was added to the reaction solution, and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1→1:1), to yield 50 mg of a free form. To this free form was added an equivalent amount of hydrobromic acid, to thereby yield 50 mg of the title compound.

reactant | 3-[4-(5-bromopyridin-2-yloxy)-3-methylphenyl]-1-piperonyltetrahydropyrimidin-2-one | 0.22 mmol, 0.11 g | BrC=1C=CC(=NC1)OC1=C(C=C(C=C1)N1C(N(CCC1)CC1=CC=2OCOC2C=C1)=O)C | C24H22BrN3O4
reactant | Xantphos | 0.03 mmol, 15 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 4′-(trifluoromethyl)acetophenone | 0.33 mmol, 63 mg | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
reactant | potassium bis(trimethylsilyl)amide | 0.33 mmol, 66 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | hydrobromic acid | Br | BrH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.01 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | 3-(3-methyl-4-{5-[2-oxo-2-(4-trifluoromethylphenyl)ethyl]pyridin-2-yloxy}phenyl)-1-piperonyltetrahydropyrimidin-2-one hydrobromide | yield 50 mg | Br.CC=1C=C(C=CC1OC1=NC=C(C=C1)CC(C1=CC=C(C=C1)C(F)(F)F)=O)N1C(N(CCC1)CC1=CC=2OCOC2C=C1)=O | InChI=1S/C33H28F3N3O5.BrH/c1-21-15-26(39-14-2-13-38(32(39)41)19-23-3-10-29-30(17-23)43-20-42-29)9-11-28(21)44-31-12-4-22(18-37-31)16-27(40)24-5-7-25(8-6-24)33(34,35)36;/h3-12,15,17-18H,2,13-14,16,19-20H2,1H3;1H
